US05376634
To a suspension of sodium hydride (2.04 g) in N,N-dimethylformamide (50 ml) was added 4-hydroxypyridine (5 g) at room temperature. Octyl bromide (9.08 ml) was added thereto. The mixture was stirred for 2 hours at 50° C. The reaction mixture was added to a mixture of brine (100 ml), trtrahydrofuran (100 ml) and ethyl acetate (100 ml). The organic layer was separated and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 1-octyl-4-pyridone (14.7 g).

reactant | sodium hydride | 2.04 g | [H-].[Na+]
reactant | 4-hydroxypyridine | 5 g | OC1=CC=NC=C1 | C5H5NO
reactant | Octyl bromide | 9.08 ml | C(CCCCCCC)Br | C8H17Br
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | brine | 100 ml | [Cl-].[Na+].O
product | 1-octyl-4-pyridone | 14.7 g | C(CCCCCCC)N1C=CC(C=C1)=O | C13H21NO
